US09108969B2
Step B: Preparation of 2-(2-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetic Acid
To a solution of ethyl 2-(2-(3-cyano-5-(trifluoromethoxy)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate (108 mg, 0.229 mmol) in dioxane (1 mL) was added 1 M LiOH aqueous solution (0.914 mL, 0.914 mmol). The reaction was stirred at room temperature for 8 h, diluted with water, and acidified to pH 4 with 0.5 M aqueous citric acid. The solid precipitate was collected to give the title compound (90 mg). LCMS m/z=445.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.57-1.68 (m, 1H), 2.00-2.14 (m, 1H), 2.16-2.27 (m, 2H), 2.65 (dd, J=16.1, 8.5 Hz, 1H), 3.01 (dd, J=16.1, 5.4 Hz, 1H), 3.46-3.55 (m, 1H), 3.85-3.93 (m, 1H), 4.13-4.20 (m, 1H), 5.13 (s, 2H), 6.23 (s, 1H), 6.89 (dd, J=8.8, 2.4 Hz, 1H), 7.05 (d, J=2.4 Hz, 1H), 7.19 (d, J=8.8 Hz, 1H), 7.44 (s, 1H), 7.58 (s, 1H), 7.70 (s, 1H).

reactant | ethyl 2-(2-(3-cyano-5-(trifluoromethoxy)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetate | 0.229 mmol, 108 mg | C(#N)C=1C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)OCC)C=C(C1)OC(F)(F)F | C25H23F3N2O4
reactant | LiOH | 0.914 mmol, 1 M, 0.914 mL | [Li+].[OH-]
reactant | citric acid | 0.5 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 2-(2-(3-Cyano-5-(trifluoromethoxy)benzyloxy)-6,7,8,9-tetrahydropyrido[1,2-a]indol-9-yl)acetic Acid | 90 mg | C(#N)C=1C=C(COC=2C=C3C=C4N(C3=CC2)CCCC4CC(=O)O)C=C(C1)OC(F)(F)F | C23H19F3N2O4
